US04426385
Part A: Preparation of 4-(4-chloro-1-naphthoxy)-3,5-dichloro-1-nitrobenzene
To a mixture containing 28.02 g (0.203 mole) of anhydrous potassium carbonate and 30.26 g (0.134 mole) of 3,4,5-trichloro-1-nitrobenzene in 300 ml dry DMF under an atmosphere of nitrogen and at room temperature was added 30.04 g (0.168 mole) of 4-chloro-1-naphthol. The flask was then placed in an oil bath which was heated. An internal reaction temperature of 105° C. was reached and maintained for 20 hours. After cooling the reaction mixture to room temperature most of the DMF was removed under vacuum. The residue was taken up in 1.5 L of 1:1 EtOAc to Et2O and 300 ml of H2O. The layers were separated and washed twice with 5% NaOH, twice with H2O, and finally once with a saturated aqueous NaCl solution. After drying over anhydrous Na2SO4 removal of the solvents afforded 48.73 g of a dark brown solid. This was recrystallized twice from hexane-ethyl acetate to afford 15.84 g of pale yellow needles; mp 121.5°-123° C. NMR (COCl3): δ6.18 (d, J=8 Hz, 1H), 7.25 (d, J=8 Hz 1H) 8.4-8.7 (m, 2H), 8.0-8.5 (m, 4H, contains 8.25 [S]).

reactant | potassium carbonate | 0.203 mole, 28.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4,5-trichloro-1-nitrobenzene | 0.134 mole, 30.26 g | ClC=1C=C(C=C(C1Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | 4-chloro-1-naphthol | 0.168 mole, 30.04 g | ClC1=CC=C(C2=CC=CC=C12)O | C10H7ClO
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 4-(4-chloro-1-naphthoxy)-3,5-dichloro-1-nitrobenzene | 48.73 g | ClC1=CC=C(C2=CC=CC=C12)OC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C16H8Cl3NO3
